Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ male with alzheimer's dementia presenting w
unwitnessed fall. 

History is extremely limited - patient is encephalopathic and is
unable to provide history. The only note in our system is from
___. Attempted to find records at multiple other hospitals with
no success. Furthermore, we do not have the names or numbers of
any family or friends, including the person who initially found
the patient and called ___. 

Per EMS report: "Called by a friend of an ___ yo m found ___ to
baseline laying on bathroom floor. Pt was last seen up and
complaint free when friend came to check on him at 04:00 this 
am,
was checked on again around 13:00 and found on the floor. Pt has
Alzheimer's with progressive dementia, so was unable to clearly
describe what happened. Pt has a very small lac to forehead with
small amount of dried blood. No other inj noted. Pt denies any
pain or discomfort. Pt would not tolerate c -spine collar."

Review of medication tab in OMR shows recent prescription for
lisinopril and donepezil. 

In the ED:

Initial vital signs were notable for: T 99.3, HR 88, BP 120/88,
RR 18, 98% RA 
 
Exam notable for: Trauma assessment notable for a superficial 
cut
to the forehead. Otherwise non-tender to palpation from head to
toe. Normal physical exam. Unable to cooperate with neurological
exam.

Labs were notable for:

- CBC: WBC 7.5, Hgb 10.6, plt 386 

- Lytes:
143 / 106 / 30     AGap=12 
-------------- 95 
4.5 \ 25 \ 1.2  

- Normal LFTs
- Negative trop
- Normal coags

Studies performed include:
- CT c-spine w/o contrast - with no acute fracture or traumatic
subluxation
- CT head w/p contrast with no large territorial infarction or
acute intracranial hemorrhage
- Chest x-ray with no focal consolidation. Chronic left clavicle
and rib deformities.

Patient was given:
___ 16:15 IVF  LR 1000 mL    
___ 17:51 IV CefTRIAXone 1 gm 
___ 18:52 IV MetroNIDAZOLE 500 mg 
___ 18:55 IV Azithromycin (500 mg ordered) 
___ 19:04 IM Haloperidol 5 mg 
___ 19:50 IV LORazepam 1 mg 

Vitals on transfer: T 97.8, HR 77, BP 148/78, RR 18, 100% RA 

Upon arrival to the floor, patient is extremely somnolent and 
not
responsive to voice. Unable to provide history.

Additional history from Wife:
The patient has Alzheimer's dementia and follows with Dr. ___ at ___. He was diagnosed ___ years ago. They had a recent
visit with Dr. ___ in ___ and was told that the 
dementia
is progressing. 
In the setting of the wife's surgery, she had arranged for 
people
to check on the patient. She thinks that the disruption of his
schedule may have lead to increased confusion. If she had to
guess, she thinks that he probably fell asleep on the toilet
(?after emptying the litterbox)  and then fell. 
In terms of ADLs, it seems as though he is dependent for most
ADLs. He generally had been doing OK home alone during the day.
She does all medications. She has also noted that the patient's
language has worsened recently. 

 
Past Medical History:
Alzheimer's Dementia
Hypertension

 
Social History:
___
Family History:
Unable to obtain due to confusion

 
Physical Exam:
Exam on Admission:
VITALS: T 98.3, HR 63, BP 135/64, RR 18, 95% RA
GENERAL: Very somnolent, not responsive to voice and not
following commands. Snoring, occasional cough. Thin.
EYES: Anicteric, pupils equally reactive to light
ENT: Small superficial laceration on forehead
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: poor air movement, some scattered rhonchi, no wheezes
GI: Abdomen soft, non-distended, does not grimace with 
palpation.
Bowel sounds present.  No HSM
GU: incontinent of urine
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted. Several superficial
scratches on lower extremities and several ecchymoses on arms
NEURO: Somnolent, not following commands or responding to voice.
Face symmetric. When I move his upper extremities he resists 
with
symmetric strength. Moving both lower extremities equally. 
Coughs
with suctioning, and grabs toward suction
PSYCH: somnolent 

Exam on discharge:
Vitals: 98.1 BP:168/77 HR:66 18 95 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, PERRL
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx - very poor appetite
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation although participation limited
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: no suprapubic fullness or tenderness
MSK: Neck supple, moves all extremities
SKIN: No rashes or ulcerations noted
NEURO: Oriented to person only, mumbling, not following commands

 
Pertinent Results:
- CBC: WBC 7.5, Hgb 10.6, plt 386 

- Lytes:
143 / 106 / 30     AGap=12 
-------------- 95 
4.5 \ 25 \ 1.2  

- Normal LFTs
- Negative trop
- Normal coags

MICRO: Reviewed in OMR, significant for:
- ___ urine culture - pending
- ___ blood cultures x2 - pending

IMAGING: Reviewed in ___, significant for:

___ CXR Pa and Lat: No focal consolidation.  Chronic left
clavicle and rib deformities.

___ NCHCT: Limited due to motion.  Allowing for this, no
traumatic acute findings.

___ CT c-spine: 
1. No acute fracture or traumatic subluxation of the cervical
spine.
2. Moderate degenerative change of the cervical spine, most
severe at C3-4.

ECG: ___
Sinus rhythm. AV conduction delay, old inferior infarct

Labs on discharge:

___ 09:20AM BLOOD WBC-6.7 RBC-3.68* Hgb-10.7* Hct-34.7* 
MCV-94 MCH-29.1 MCHC-30.8* RDW-12.1 RDWSD-41.8 Plt ___
___ 09:20AM BLOOD Glucose-87 UreaN-18 Creat-1.0 Na-144 
K-4.2 Cl-106 HCO3-24 AnGap-14
___ 09:20AM BLOOD Calcium-9.1 Phos-2.8 Mg-2.0
 
Brief Hospital Course:
Mr. ___ is a ___ male with Alzheimer's dementia presenting w 
unwitnessed fall. 

# Fall suspected mechanical
Trauma workup only notable for superficial cut to forehead, 
otherwise head and neck CT negative for acute injury. Fall is 
likely mechanical. The patient was seen by ___ who recommended 
rehab. 

#Urinary retention:
Patient noted to have urinary retention. Per wife this has not 
happened in past. seems most likely due to BPH. His U/A urine 
culture was negative and he did not seem to be on medications 
that cause urinary retention. He was started on tamsulosin 0.4mg 
at HS and will need straight catheterization BID while at rehab. 
If his urinary retention does not resolve, would consider 
urology referral. 

#Acute renal failure
#Hyperkalemia
Likely due to post-obstruction with possible contribution of 
hypovolema/dehydration. Resolved with fluids and straight cath.

# Concern for community acquired pneumonia 
# Concern for aspiration
ON admisison there was concern for pneumonia. The patient 
received ceftriaxone, azithromycin, and metronidazole (given 
concern for aspiration) in ED. However, patient with no fever, 
saturating well on room air, and CXR with no focal 
consolidations. Antibiotics were held and the patient remained 
stable.

# Acute toxic metabolic encephalopathy 
# Alzheimer's dementia
Patient confused and agitated in ED, per wife has difficulty 
answering questions at baseline. Likely has some component of 
delirium superimposed on dementia.  The patient is followed by 
neurology- Dr. ___. The patient remained confused 
throughout his hospitalization. He will be going to STR. Would 
continue to address Goals of care moving forward.

# Anemia - unclear baseline. No signs of active bleeding. 
Reviewed with PCP and ___ are stable from recent baseline. 
Additional work up was deferred given dementia.

# Hypertension
Lisinopril was initially held but then resumed on discharge. 

Transitional issues:
- Straight cath BID for urinary retention, consider urology 
referral
- Code status: DNR/DNI- Reviewed with Wife. ___ filled out. 
original given to wife, copy in chart
- HCP: Wife- ___: ___

Patient seen and examined on day of discharge. >30 minutes on 
discharge activities.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Donepezil 10 mg PO QHS 
2. Lisinopril 5 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Tamsulosin 0.4 mg PO QHS  
3.  Donepezil 10 mg PO QHS  
4.  Lisinopril 5 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute renal failure
Urinary retention
Alzheimer's dementia
 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you during your admission to 
___. You were admitted after falling. You were found to have 
mild renal failure and to have urinary retention. You were seen 
by physical therapy who recommended you go to short term rehab 
to get stronger. The rehab will continue catheterization twice 
daily and we recommend you follow up with a urologist if this 
does not improve. 

We wish you the best, 
 
Followup Instructions:
___